US08278328B2
A solution of 4-cyanophenylacetic acid (1.6 g, 9.93 mmol) in 50% aqueous sulfuric acid (10 mL) was treated with N-bromosuccinimide (1.8 g, 10.11 mmol). The mixture was stirred in the dark for 18 h then diluted with water and extracted with diethyl ether to give 2-bromo-4-cyanophenylacetic acid (2.1 g, 7.00 mmol, 70.5% yield) as a white solid containing about 25% of starting material.

reactant | 4-cyanophenylacetic acid | 9.93 mmol, 1.6 g | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | N-bromosuccinimide | 10.11 mmol, 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-bromo-4-cyanophenylacetic acid | 7.00 mmol, 2.1 g, 70.5% yield | BrC1=C(C=CC(=C1)C#N)CC(=O)O | C9H6BrNO2
